US06482852B2
(g) (S)-5-Amino-8-cyclohexylmethoxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide
To (S)-5-azido-8-cyclohexylmethoxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide (2.5 g, 5.8 mmol) in EtOAc (20 mL) was added 10% Pd/C (0.25 g). The mixture was hydrogenated at STP for 17 h, filtered though glass, and concentrated to a white solid (1.8 g, 98%). MS [M−H]− 317, m.p. 145-146° C. Optical purity determined by Mosher Amide formation, 55% e.e.

reactant | (S)-5-azido-8-cyclohexylmethoxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide | 5.8 mmol, 2.5 g | N(=[N+]=[N-])[C@@H]1C2=C(OCCC1)C=C(C(=C2)C(=O)N)OCC2CCCCC2 | C18H24N4O3
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | (S)-5-Amino-8-cyclohexylmethoxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide | N[C@@H]1C2=C(OCCC1)C=C(C(=C2)C(=O)N)OCC2CCCCC2 | C18H26N2O3
